US06664406B1
A mixture of 1-hydroxy-3-(z-15-tetracosenoyloxy)propane, prepared according to Description 3, (0.045 mol, 19.0 g), z,z,z-6,9,12-octadecatrienoic acid (0.054 mol, 15.0 g) and hypophosphorous acid (0.4 g) was heated with stirring to 160° C. under nitrogen. After 5 h, TLC (80:18:2 petroleum ether-ethyl ether-acetic acid) indicated that most of the mono-ester had reacted (Rf: 0.60). The mixture was cooled down to room temperature and petroleum ether (800 mL) was added. The resulting solution was washed with saturated sodium bicarbonate (3×80 mL) and saturated sodium chloride (3×80 mL). It was then dried over anhydrous sodium sulphate, concentrated and purified by flash chromatography on silica gel (19:1 petroleum ether-ethyl ether) to yield 1-(z,z,z-6,9,12-octadecatrienoyloxy)-3-(z-15-tetracosenoyloxy)propane as a pale yellow oil.

reactant | 1-hydroxy-3-(z-15-tetracosenoyloxy)propane | OCCCOC(CCCCCCCCCCCCC\C=C/CCCCCCCC)=O | C27H52O3
reactant | z,z,z-6,9,12-octadecatrienoic acid | 0.045 mol, 19.0 g | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C18H30O2
reactant | hypophosphorous acid | 0.4 g | [PH2](=O)O | H3O2P
product | 1-(z,z,z-6,9,12-octadecatrienoyloxy)-3-(z-15-tetracosenoyloxy)propane | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCOC(CCCCCCCCCCCCC\C=C/CCCCCCCC)=O | C45H80O4
